US07576206B2
(4-Methylphenyl)-ureido-sulfonylchloride
This compound was prepared according to J. Med. Chem. 1996, 39, 1243-1252. Briefly, a solution of chlorosulfonylisocyanate (1.62 g, 11.5 mmol, 1 eq.) was diluted in dry diethylether and the resulting solution was cooled at −50° C.<T<−40° C. To this solution, p-toluidine (1.23 g, 11.5 mmol, 1 eq.) was added. The solution was stirred at −35° C. for 10′ and a suspension was obtained. The solid was filtered and washed with diethyl ether. Yield 80%, 2.3 g.

reactant | chlorosulfonylisocyanate | 11.5 mmol, 1.62 g, 1 eq. | ClS(=O)(=O)N=C=O | CClNO3S
reactant | p-toluidine | 11.5 mmol, 1.23 g, 1 eq. | NC1=CC=C(C=C1)C | C7H9N
solvent | diethylether | C(C)OCC | C4H10O
product | (4-Methylphenyl)-ureido-sulfonylchloride | Yield 80% | CC1=CC=C(C=C1)NC(NS(=O)(=O)Cl)=O | C8H9ClN2O3S
